2183-01-08 06:15:00 Physician Resident Progress Note
Chief Complaint: 72yo M p/w +biomarkers in the setting of LLL PNA due
   to demand ischemia vs NSTEMI.  Hypovolemia vs septic picture.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2183-1-7**] 06:24 PM
 MULTI LUMEN - START [**2183-1-7**] 06:51 PM
 ARTERIAL LINE - START [**2183-1-7**] 10:04 PM
   Changed antibiotics
 vanc/cefepime
   [**Known lastname 13180**], [**Known firstname **]
    [**Numeric Identifier 13181**]
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2183-1-7**] 09:16 PM
   Cefipime - [**2183-1-7**] 10:17 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2183-1-7**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-1-8**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 41 (37 - 54) bpm
   BP: 113/60(77) {102/57(76) - 117/65(81)} mmHg
   RR: 9 (9 - 16) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                    638 mL
                                                                  1,028 mL
   PO:
   TF:
   IVF:
                                                                    578 mL
                                                                  1,028 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    280 mL
   Urine:
                                                                    125 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 945 (945 - 945) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.37/37/166/21/-3
   Ve: 8.1 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, OP without lesions
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : ), coarse breath sounds, intubated
   Abdominal: Soft, Non-tender, No(t) Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash: diffuse
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   133 K/uL
   8.8 g/dL
   158 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   32 mg/dL
   104 mEq/L
   132 mEq/L
   25.4 %
   3.3 K/uL
                             [**2183-1-7**]  07:11 PM
                             [**2183-1-7**]  10:13 PM
                             [**2183-1-8**]  12:15 AM
                             [**2183-1-8**]  03:59 AM
                             [**2183-1-8**]  04:22 AM
   WBC
   3.2
   3.3
   Hct
   28.8
   25.4
   Plt
   136
   133
   Cr
   1.2
   1.1
   TropT
   0.51
   0.33
   TCO2
   22
   23
   22
   Glucose
   162
   142
   158
   Other labs: PT / PTT / INR:11.7/104.2/1.0, CK / CKMB /
   Troponin-T:77/10/0.33, ALT / AST:16/35, Alk Phos / T Bili:58/0.3,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: UA pending
   Imaging: CXR: wetread: ETT tip 4.5c from carina, NGH & sidehole over
   stomach R PICC tip mid SVC, Low lung vol Retrocardic opacities
   Microbiology: Sputum culture pending
   Urine culture pending
   Blood culture x3 pending
   Assessment and Plan
   72-year-old male presents with + biomarkers in setting of pneumonia due
   to demand ischemia vs NSTEMI.
   .
   #. Respiratory failure: Reportedly hypoxemic. [**12-31**] pneumonia and
   underlying lung disease. Given recent hospitalization in [**11-6**] will
   give vanc/cefepime for HCAP instead of azithro/CTX that he received at
   OSH. LFTs were normal at OSH. Differential includes viral pna and
   bacterial pna. Contribution from underlying lung disease.
   - vanc/cefepime - check vanc trough after 3 doses, ID approval for
   cefepime
   - check EKG, consider readding azithro to cover atypicals
   - flu DFA
   - CXR in AM, f/u on final
   - consider urine legionella ag
   - RSBI today, consider extubation if doing well, stop fentanyl and
   midazolam this AM
   - wean vent settings
   - f/u sputum cx
   .
   # Demand ischemia vs NSTEMI:  Given new wall motion abnormality
   consider acute myocardial injury.  Patient has elevated troponin,
   mildly elevated CK-MB (MBI ~ 10).  Given that patient's primary issue
   is his pneumonia and possibly septic picture, will favor medically
   managing for now and defer cardiac cath after resp status is stable.
   The patient liklely has high grade LAD lesion given new WMA, but is not
   likely from acute plaque rupture.  For now, will trend CEs.
   -Repeat and trend biomarkers.
   -Follow tele and EKGs
   -Heparin gtt, ASA
   -Clopidrogrel loading dose 300mg and then 75 mg QD
   -Simvastatin 80mg
   .
   # COPD: Continue treatment with MDI (ipatropium, albuterol).
   - Hold home medications: fluticasone, Symbicort(budesonide/formoterol)
   .
   # Anemia: unclear etiology. [**Month (only) 51**] be secondary to alcoholism, viral
   pathology, hemolysis
   - consider viral etiology
   - guaiac stool
   - consider HIV test
   - consider hemolysis labs and iron studies.
   # Afib with slow ventricular response:  Chronically bradycardiac per
   patient's daughter.  Off [**Name2 (NI) 5863**] agents.  CHADS2 score of 4 (CHF, HTN,
   TIA) concerning for stoke risk, but patient is chronic alcoholic and
   fall risk, thus not anticoagulated.
   -Follow EKG
   -ASA 325mg daily
   -Hold beta-blockers
   .
   # Prolonged QTc. Consider medication side-effect, ischemic heart
   disease and/or hypocalcemia.
   -follow EKG/telemetry
   -correct lytes PRN
   .
   #  Na 130: hyponatremia likely due to volume loss.  Would also consider
   SIADH given lung process/stress.
   -1L NS
   - urine lytes
   .
   # Hypotension. Concerning for septic picture in setting of PNA, will
   treat infection, give fluids as needed, hold on pressors.
   .
   #  Rash has been for 3 months per OSH report. Consider drug reaction to
   lisinopril per OSH report stopped med. [**2182-12-25**] Derm consult with BX
   suggested focal interface change consistent with drug eruption or
   drug-induced lupus erythematosis.  Drug-induced lupus more likely given
   subsequently positive [**Doctor First Name **].  Derm suggested amlodipine or lisinopril as
   possible culprits.  Family said that rash began as vesicles which
   collesced may be consistent with toxic epidermal necrosis. Also
   consider lichen planus per derm.
   -Consult Derm
   -Hold on documented derm recs (Desoxiteasone 0.25% cream topical [**Hospital1 7**],
   Loratidine and topical steroid as needed)
   .
   #  EtOH abuse, last drink [**1-5**]
   -On Midazolam for sedation, transition to lorazepam when extubated.
   -thiamine, folic acid
   -lorazepam 2mg q4h per CIWA when extubated
   .
   #  Hyperglycemia
   - Insulin SS.
   .
   # Glaucoma
   -Lumigan (Bimatoprost).
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2183-1-7**] 06:51 PM
   20 Gauge - [**2183-1-7**] 06:53 PM
   Arterial Line - [**2183-1-7**] 10:04 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: famotidine
   VAP:  abx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2183-01-08 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**1-8**]
   - Repeat Troponin decreased from 0.5 to 0.33. CK 77 this AM.
   - Patient now on CPAP on FiO2 of 50% with ABG 7.37/37/166. Plan to wean
   to FiO2 40%.
   [**1-7**]
   - a-line placed
   - antibiotics changed to cefepime and vancomycin for HCAP
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2183-1-7**] 09:16 PM
   Cefipime - [**2183-1-7**] 10:17 PM
   Infusions:
   Heparin Sodium - 400 units/hour
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2183-1-7**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-1-8**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 36 (36 - 54) bpm
   BP: 109/58(74) {102/57(74) - 117/65(81)} mmHg
   RR: 9 (9 - 16) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 26 (14 - 26)mmHg
   Total In:
                                                                    638 mL
                                                                  1,333 mL
   PO:
   TF:
   IVF:
                                                                    578 mL
                                                                  1,333 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    355 mL
   Urine:
                                                                    125 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                    978 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 1,022 (945 - 1,022) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 11
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 13
   PIP: 6 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.37/37/166/21/-3
   Ve: 10.7 L/min
   PaO2 / FiO2: 415
   Physical Examination
   40%FiO2, Pressure Support
   GENERAL: Intubated.
   HEENT: NCAT. Sclera anicteric. Pupils 3mm->2mm reactive to light.  No
   xanthalesma.  Dry MM without visible lesions on tongue/lips.
   NECK: Supple without visible JVP.
   CARDIAC: PMI not palpated. Slow rate normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse breath
   sounds bilaterally at anterior and lateral axillary fields. ABDOMEN:
   Soft, ND. Abd aorta not enlarged by palpation. Normal BS.  No
   abdominial bruits.
   EXTREMITIES: No clubbing, cyanosis, edema.  Warm [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/l.
   SKIN: Skin demonstrates diffuse/coalescing maculopapular erythematous
   rash with plaques/erosions on extremities and torso.
   Labs / Radiology
   133 K/uL
   8.8 g/dL
   158 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   32 mg/dL
   104 mEq/L
   132 mEq/L
   25.4 %
   3.3 K/uL
        [image002.jpg]
                             [**2183-1-7**]  07:11 PM
                             [**2183-1-7**]  10:13 PM
                             [**2183-1-8**]  12:15 AM
                             [**2183-1-8**]  03:59 AM
                             [**2183-1-8**]  04:22 AM
   WBC
   3.2
   3.3
   Hct
   28.8
   25.4
   Plt
   136
   133
   Cr
   1.2
   1.1
   TropT
   0.51
   0.33
   TCO2
   22
   23
   22
   Glucose
   162
   142
   158
   Other labs: PT / PTT / INR:11.7/104.2/1.0, CK / CKMB /
   Troponin-T:77/10/0.33, ALT / AST:16/35, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:82.2 %, Lymph:15.1 %, Mono:2.0 %, Eos:0.4 %,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   72yo M p/w +biomarkers in the setting of LLL PNA due to demand ischemia
   vs NSTEMI.  Hypovolemia vs septic picture.
   .
   # Respiratory distress [**12-31**] PNA, lung disease.  LLL PNA at OSH.  Given
   recent hospitalization in [**October 2182**] we will give
   vancomycin/cefepime/azithromycin instead of azithromycin/ceftriaxone he
   received at OSH for HCAP.  LFTs nml at OSH.
   -Vanc/Cefepime, Vanc trough after 3 doses.
   -Continue azithromycin for atypical coverage.
   -CXR in AM
   -Continue intubation w/ fentanyl and midalozam.
   -Wean FiO2 as tolerated
   - f/u Sputum Cx
   .
   # Demand ischemia vs NSTEMI:  Given new wall motion abnormality
   consider acute myocardial injury.  Patient has elevated troponin,
   mildly elevated CK-MB (MBI ~ 10).  Given that patient's primary issue
   is his pneumonia and possibly septic picture, will favor medically
   managing for now and defer cardiac cath after resp status is stable.
   The patient liklely has high grade LAD lesion given new WMA, but is not
   likely from acute plaque rupture.  For now, will trend CEs.
   -Repeat and trend biomarkers.
   -Follow tele and EKGs
   -Heparin gtt, ASA,
   -Clopidrogrel loading dose 300mg and then 75 mg QD
   -Simvastatin 80mg
   .
   # COPD: Continue treatment with nebs (ipatropium, albuterol).
   - Hold home medications: fluticasone, Symbicort(budesonide/formoterol)
   .
   # Afib with slow ventricular response:  Chronically bradycardiac per
   patient's daughter.  Off [**Name2 (NI) 5863**] agents.  CHADS2 score of 4 (CHF, HTN,
   TIA) concerning for stoke risk, but patient is chronic alcoholic and
   fall risk, thus not anticoagulated.
   -Follow EKG
   -ASA 325mg daily
   -Hold beta-blockers
   .
   # Prolonged QTc. Consider medication side-effect, ischemic heart
   disease and/or hypocalcemia.
   -follow EKG/telemetry
   -correct lytes PRN
   .
   #  Na 130: hyponatremia likely due to volume loss.  Would also consider
   SIADH given lung process/stress.
   -1L NS
   .
   # Hypotension. Concerning for septic picture in setting of PNA, will
   treat infection, give fluids as needed, hold on pressors.
   .
   #  Rash has been for 3 months per OSH report. Consider drug reaction to
   lisinopril per OSH report stopped med. [**2182-12-25**] Derm consult with BX
   suggested focal interface change consistent with drug eruption or
   drug-induced lupus erythematosis.  Drug-induced lupus more likely given
   subsequently positive [**Doctor First Name **].  Derm suggested amlodipine or lisinopril as
   possible culprits.  Family said that rash began as vesicles which
   collesced may be consistent with toxic epidermal necrosis. Also
   consider lichen planus per derm.
   -Consult Derm
   -Hold on documented derm recs (Desoxiteasone 0.25% cream topical [**Hospital1 7**],
   Loratidine and topical steroid as needed)
   .
   #  EtOH abuse, last drink [**1-5**]
   -On Midazolam for sedation, transition to lorazepam when extubated.
   -thiamine, folic acid
   -lorazepam 2mg QID
   .
   #  Hyperglycemia
   - Insulin SS.
   .
   # Glaucoma
   -Lumigan (Bimatoprost).
   .
   FEN:  intubated, npo.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin IV
   -Pain management with  morphine/ntg if needed once extubated (hold home
   neurontin 100mg TID home dose for now)
   -Bowel regimen with  docusate/senna
   -GI PPX: famotidine while NPO
   .
   CODE: Presumed full per OSH report
   .
   COMM: [**Name (NI) **]: [**Telephone/Fax (1) 13170**], [**Telephone/Fax (1) 13171**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2183-1-7**] 06:51 PM
   20 Gauge - [**2183-1-7**] 06:53 PM
   Arterial Line - [**2183-1-7**] 10:04 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-01-09 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumonia, demand ischemia
   24 Hour Events:
   - Patient pain free and somnolent this AM.  Describe prior SOB and
   ?chest discomfort beginning/worsening after [**Holiday **].
   - Patient says rash began in [**Month (only) 1148**] or [**Month (only) 2139**] and that he stopped
   both lisinopril and norvasc at that time, patient appears confused and
   timecourse is not reliable.
   [**1-8**]
   - Derm consulted. Said Drug Induced Lupus may persist for days/weeks
   following discontinuation.  Wanted anti-histone antibody, which was
   done at [**Location (un) 250**], found to be negative (<1.0) [**2183-1-1**] 1024.
   - Repeat Troponin decreased from 0.5 to 0.33. CK 77 this AM.
   - Patient on CPAP on FiO2 of 50% with ABG 7.37/37/166. Plan to wean to
   FiO2 40% -->  EXTUBATED at 9am
   - Added back Azithro for atypical coverage PNA, and sent for VZV in
   sputum
   - still sleepy ~2pm ; ABG 7.35/39/79 looks fine
   - urine output ~2pm ~20cc/hr
   - Flu swab negative ; DC flu precautions
   - legionella urinary antigen negative.
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2183-1-8**] 11:00 AM
   Cefipime - [**2183-1-8**] 04:19 PM
   Vancomycin - [**2183-1-8**] 07:24 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2183-1-8**] 09:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-1-9**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 51 (42 - 60) bpm
   BP: 139/63(88) {118/54(5) - 142/71(94)} mmHg
   RR: 11 (9 - 13) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 10 (8 - 287)mmHg
   Total In:
                                                                  2,342 mL
                                                                    106 mL
   PO:
                                                                     60 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,282 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    310 mL
   Urine:
                                                                    930 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,412 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 941 (941 - 1,022) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 10
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: 7.35/39/78.[**Numeric Identifier 181**]/22/-3
   Ve: 9.1 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, OP without lesions
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles, Ronchi, L>R with mild positive egophony ),
   Abdominal: Soft, Non-tender, No(t) Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash: diffuse scaling rash.
   Neurologic: sleepy but arousable, oriented x2.
   Labs / Radiology
   136 K/uL
   9.6 g/dL
   136 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.3 mEq/L
   36 mg/dL
   104 mEq/L
   134 mEq/L
   27.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2183-1-7**]  07:11 PM
                             [**2183-1-7**]  10:13 PM
                             [**2183-1-8**]  12:15 AM
                             [**2183-1-8**]  03:59 AM
                             [**2183-1-8**]  04:22 AM
                             [**2183-1-8**]  01:55 PM
                             [**2183-1-8**]  05:03 PM
                             [**2183-1-9**]  02:55 AM
   WBC
   3.2
   3.3
   7.1
   Hct
   28.8
   25.4
   27.8
   Plt
   136
   133
   136
   Cr
   1.2
   1.1
   1.0
   1.0
   TropT
   0.51
   0.33
   TCO2
   22
   23
   22
   22
   Glucose
   162
   142
   158
   136
   Other labs: PT / PTT / INR:10.7/30.7/0.9, CK / CKMB /
   Troponin-T:77/10/0.33, ALT / AST:16/35, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:82.2 %, Lymph:15.1 %, Mono:2.0 %, Eos:0.4 %,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   72-year-old male presents with + biomarkers in setting of pneumonia due
   to demand ischemia vs NSTEMI.
   .
   #. Respiratory failure: Reportedly hypoxemic. [**12-31**] pneumonia and
   underlying lung disease. LFTs were normal at OSH. Differential includes
   viral pna and bacterial pna. Contribution from underlying lung
   disease.  Negative flu swab and legionella antigen.  Likely CAP even
   though patient had a recent hospitalization, appears to be lobar in
   nature.   Tele shows mild QTc prolongation at 500msec.
   - discontinue vancomycin, switch back to ceftriaxone from cefepime
   because pseudomonas unlikely.  Continue azithromycin to cover atypical
   pathogens, although also less likely because of lobar consolidation.
   - f/u sputum cx
   - check EKG this AM.
   .
   # Demand ischemia vs NSTEMI:  Given new wall motion abnormality
   consider acute myocardial injury.  Patient has elevated troponin,
   mildly elevated CK-MB (MBI ~ 10).  Given that patient's primary issue
   is his pneumonia and possibly septic picture, will favor medically
   managing for now and defer cardiac cath after resp status is stable.
   The patient liklely has high grade LAD lesion given new WMA, but is not
   likely from acute plaque rupture.
   -Heparin gtt, ASA
   -Clopidrogrel loading dose 300mg and then 75 mg QD
   -Simvastatin 80mg
   - Will plan for catheterization tomorrow for likely high grade stenotic
   but non-occlusive disease.
   .
   # COPD: Continue treatment with MDI (ipatropium, albuterol).
   - continue advair.
   .
   # Anemia: unclear etiology. Likely secondary to alcoholism.
   # Afib with slow ventricular response:  Chronically bradycardiac per
   patient's daughter.  Off [**Name2 (NI) 5863**] agents.  CHADS2 score of 4 (CHF, HTN,
   TIA) concerning for stoke risk, but patient is chronic alcoholic and
   fall risk, thus not anticoagulated.
   -Follow EKG
   -ASA 325mg daily
   -Hold beta-blockers
   .
   # Prolonged QTc. Consider medication side-effect, ischemic heart
   disease and/or hypocalcemia.
   -follow EKG/telemetry
   -correct lytes PRN
   .
   #  Na 130: hyponatremia likely due to volume loss.  Would also consider
   SIADH given lung process/stress.
   -1L NS
   - urine lytes
   .
   # Hypotension. Concerning for septic picture in setting of PNA, will
   treat infection, give fluids as needed, hold on pressors.
   .
   #  Rash has been for 3 months per OSH report. Consider drug reaction to
   lisinopril per OSH report stopped med. [**2182-12-25**] Derm consult with BX
   suggested focal interface change consistent with drug eruption or
   drug-induced lupus erythematosis.  Drug-induced lupus more likely given
   subsequently positive [**Doctor First Name **].  Derm suggested amlodipine or lisinopril as
   possible culprits.  Family said that rash began as vesicles which
   collesced may be consistent with toxic epidermal necrosis. Also
   consider lichen planus per derm.
   -Consult Derm
   -Hold on documented derm recs (Desoxiteasone 0.25% cream topical [**Hospital1 7**],
   Loratidine and topical steroid as needed)
   .
   #  EtOH abuse, last drink [**1-5**]
   -On Midazolam for sedation, transition to lorazepam when extubated.
   -thiamine, folic acid
   -lorazepam 2mg q4h per CIWA when extubated
   .
   #  Hyperglycemia
   - Insulin SS.
   .
   # Glaucoma
   -Lumigan (Bimatoprost).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-1-7**] 06:53 PM
   Arterial Line - [**2183-1-7**] 10:04 PM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-01-10 07:27:00 Physician Resident Progress Note
Chief Complaint: 72-year-old male presents with + biomarkers in setting
   of pneumonia due to demand ischemia vs NSTEMI.
   24 Hour Events:
   - Patient pain.  Describe prior SOB and ?chest discomfort
   beginning/worsening after [**Holiday **].
   - Patient says rash began in [**Month (only) 1148**] or [**Month (only) 2139**] and that he stopped
   both lisinopril and norvasc at that time, patient appears confused and
   timecourse is not reliable. Rash is intermittently painful/pruritic.
   -Derm f/u: DiffDx: systemic lupus (SLE) and sub-acute cutaneous lupus
   (SCLE).  B/C his anti-histone antibodies were negative and they are
   positive in about 95% of patients with drug-induced SLE, this is less
   likely.  Anti-histone is often not positive in SCLE.  Anti-Ro antibody
   looking for SCLE.
   - DCed Azithromycin b/c QTc>500
   - Speech and swallow says he'll be OK to eat normal foods after Cath;
   will get thin liquids and ground solids tonight and NPO p MN for cath
   Allergies:
   Lisinopril
   Rash;
   Amlodipine
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2183-1-8**] 11:00 AM
   Cefipime - [**2183-1-8**] 04:19 PM
   Vancomycin - [**2183-1-8**] 07:24 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-1-10**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 51 (43 - 58) bpm
   BP: 152/74(94) {129/49(69) - 152/78(94)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.3 kg (admission): 95 kg
             Total In:
                                                                    542 mL
                                                                    277 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    182 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    400 mL
   Urine:
                                                                  1,360 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -818 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), no left
   femoral bruit, ?R femoral bruit
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar coarse breath sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: diffuse
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x2
   ([**2183**]), Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   152 K/uL
   10.1 g/dL
   136 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.3 mEq/L
   36 mg/dL
   104 mEq/L
   134 mEq/L
   29.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2183-1-7**]  07:11 PM
                             [**2183-1-7**]  10:13 PM
                             [**2183-1-8**]  12:15 AM
                             [**2183-1-8**]  03:59 AM
                             [**2183-1-8**]  04:22 AM
                             [**2183-1-8**]  01:55 PM
                             [**2183-1-8**]  05:03 PM
                             [**2183-1-9**]  02:55 AM
                             [**2183-1-10**]  06:26 AM
   WBC
   3.2
   3.3
   7.1
   6.1
   Hct
   28.8
   25.4
   27.8
   29.9
   Plt
   136
   133
   136
   152
   Cr
   1.2
   1.1
   1.0
   1.0
   TropT
   0.51
   0.33
   TCO2
   22
   23
   22
   22
   Glucose
   162
   142
   158
   136
   Other labs: PT / PTT / INR:10.7/30.7/0.9, CK / CKMB /
   Troponin-T:77/10/0.33, ALT / AST:16/35, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:82.2 %, Lymph:15.1 %, Mono:2.0 %, Eos:0.4 %,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   72-year-old male presents with + biomarkers in setting of pneumonia due
   to demand ischemia vs NSTEMI.
   #. Respiratory failure: Reportedly hypoxemic. [**12-31**] pneumonia and
   underlying lung disease. LFTs were normal at OSH. Differential includes
   viral pna and bacterial pna. Contribution from underlying lung
   disease.  Negative flu swab and legionella antigen.  Likely CAP even
   though patient had a recent hospitalization, appears to be lobar in
   nature.   Tele shows mild QTc prolongation at 500msec.
   - discontinue vancomycin, switch back to ceftriaxone from cefepime
   because pseudomonas unlikely.
   - d/c azithromycin - prolonged QT, atypicals less likely
   - f/u sputum cx
   - check EKG this AM
   # Demand ischemia vs NSTEMI:  Given new wall motion abnormality
   consider acute myocardial injury.  Patient has elevated troponin,
   mildly elevated CK-MB (MBI ~ 10).  Given that patient's primary issue
   is his pneumonia and possibly septic picture, will favor medically
   managing for now and defer cardiac cath after resp status is stable.
   The patient liklely has high grade LAD lesion given new WMA, but is not
   likely from acute plaque rupture.
   - Heparin gtt, ASA - until to cath lab
   - Clopidrogrel loading dose 300mg and then 75 mg QD
   - Simvastatin 80mg
   - CCath today
   # COPD: Continue treatment with MDI (ipatropium, albuterol).
   # Anemia: unclear etiology. Likely secondary to alcoholism
   - trend daily
   # Afib with slow ventricular response:  Chronically bradycardiac per
   patient's daughter.  Off [**Name2 (NI) 5863**] agents.  CHADS2 score of 4 (CHF, HTN,
   TIA) concerning for stoke risk, but patient is chronic alcoholic and
   fall risk, thus not anticoagulated.
   - Follow EKG
   - ASA 325mg daily
   - Hold beta-blockers
   # Prolonged QTc. Consider medication side-effect, ischemic heart
   disease and/or hypocalcemia.
   - follow EKG/telemetry
   - correct lytes PRN
   #  Na 130: hyponatremia likely due to volume loss.  Would also consider
   SIADH given lung process/stress.
   - trend chemistry
   - urine lytes
   #  Rash has been for 3 months per OSH report. Consider drug reaction to
   lisinopril per OSH report stopped med. [**2182-12-25**] Derm consult with BX
   suggested focal interface change consistent with drug eruption or
   drug-induced lupus erythematosis.  Drug-induced lupus more likely given
   subsequently positive [**Doctor First Name **].  Derm suggested amlodipine or lisinopril as
   possible culprits.  Family said that rash began as vesicles which
   collesced may be consistent with toxic epidermal necrosis. Also
   consider lichen planus per derm.
   - appreciate Derm consult
   - triamcinolone 0.1% per derm recs
   #  EtOH abuse, last drink [**1-5**]
   - ativan CIWA
   - thiamine, folic acid
   #  Hyperglycemia
   - Insulin SS
   # Glaucoma
   -Lumigan (Bimatoprost)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-1-9**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU - possibly to floor later today

2183-01-11 05:27:00 Physician Resident Progress Note
Chief Complaint: 72-year-old male presents with + biomarkers in setting
   of pneumonia due to demand ischemia.
   24 Hour Events:
   -Cath showed mid-distal anterolateral HK, 1vCAD: mid LAD calcified
   lesion. PTCA w/ cutting balloon, underexpansion. Rotablade w/ 1.5 burr.
   2.75x15mm BMS placed. Postdilated to >20 atm w/ 2.75 NC balloon. Good
   angio result. Right fem angioseal. LVEDP 15-20.
   -on Ntg after cath lab for elevated pressures - will wean aggressively
   -restarted heparin gtt until figure out what to do for atrial
   fibrillation
   Allergies:
   Lisinopril
   Rash;
   Amlodipine
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2183-1-8**] 11:00 AM
   Cefipime - [**2183-1-8**] 04:19 PM
   Vancomycin - [**2183-1-8**] 07:24 PM
   Ceftriaxone - [**2183-1-10**] 08:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-1-11**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 48 (44 - 65) bpm
   BP: 141/64(85) {123/54(70) - 164/79(99)} mmHg
   RR: 15 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.3 kg (admission): 95 kg
   Height: 70 Inch
             Total In:
                                                                  1,772 mL
                                                                    183 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,072 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    235 mL
   Urine:
                                                                  1,335 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    437 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   152 K/uL
   10.1 g/dL
   115 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   34 mg/dL
   106 mEq/L
   136 mEq/L
   29.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2183-1-7**]  07:11 PM
                             [**2183-1-7**]  10:13 PM
                             [**2183-1-8**]  12:15 AM
                             [**2183-1-8**]  03:59 AM
                             [**2183-1-8**]  04:22 AM
                             [**2183-1-8**]  01:55 PM
                             [**2183-1-8**]  05:03 PM
                             [**2183-1-9**]  02:55 AM
                             [**2183-1-10**]  06:26 AM
   WBC
   3.2
   3.3
   7.1
   6.1
   Hct
   28.8
   25.4
   27.8
   29.9
   Plt
   136
   133
   136
   152
   Cr
   1.2
   1.1
   1.0
   1.0
   0.9
   TropT
   0.51
   0.33
   TCO2
   22
   23
   22
   22
   Glucose
   162
   142
   158
   136
   115
   Other labs: PT / PTT / INR:10.8/36.5/0.9, CK / CKMB /
   Troponin-T:77/10/0.33, ALT / AST:16/35, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:82.2 %, Lymph:15.1 %, Mono:2.0 %, Eos:0.4 %,
   Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.6 mg/dL
   Imaging: CCATH: Pending. per fellow Cath showed mid-distal
   anterolateral HK, 1vCAD: mid LAD calcified lesion. PTCA w/ cutting
   balloon, underexpansion. Rotablade w/ 1.5 burr. 2.75x15mm BMS placed.
   Postdilated to >20 atm w/ 2.75 NC balloon. Good angio result. Right fem
   angioseal. LVEDP 15-20.
   Microbiology: Blood cx pending
   Urine cx negative
   Respiratory cx normal flora, yeast
   Legionella negative
   DFA negative
   Assessment and Plan
   72-year-old male presents with + biomarkers in setting of pneumonia due
   to demand ischemia.
   #. Respiratory failure: Reportedly hypoxemic. [**12-31**] pneumonia and
   underlying lung disease. LFTs were normal at OSH. Differential includes
   viral pna and bacterial pna. Contribution from underlying lung
   disease.  Negative flu swab and legionella antigen.  Likely CAP even
   though patient had a recent hospitalization, appears to be lobar in
   nature.   Tele shows mild QTc prolongation at 500msec.
   - continue CTX for now, consider d/c'ing - patient has been afebrile,
   oxygenation improved
   - follow up blood cultures
   - follow prolonged QT
   - trend WBC, T
   # Demand ischemia vs NSTEMI:  Given new wall motion abnormality
   consider acute myocardial injury.  The patient liklely has high grade
   LAD lesion given new WMA, but is not likely from acute plaque rupture.
   - Heparin gtt, ASA - until to cath lab
   - Clopidrogrel loading dose 300mg and then 75 mg QD
   - Simvastatin 80mg
   - CCath today
   # COPD: Continue treatment with MDI (ipatropium, albuterol).
   # Anemia: unclear etiology. Likely secondary to alcoholism
   - trend daily
   # Afib with slow ventricular response:  Chronically bradycardiac per
   patient's daughter.  Off [**Name2 (NI) 5863**] agents.  CHADS2 score of 4 (CHF, HTN,
   TIA) concerning for stoke risk, but patient is chronic alcoholic and
   fall risk, thus not anticoagulated.
   - Follow EKG
   - ASA 325mg daily
   - Hold beta-blockers
   # Prolonged QTc. Consider medication side-effect, ischemic heart
   disease and/or hypocalcemia.
   - follow EKG/telemetry
   - correct lytes PRN
   #  Na 130: hyponatremia likely due to volume loss.  Would also consider
   SIADH given lung process/stress.
   - trend chemistry
   - urine lytes
    #  Rash has been for 3 months per OSH report. Consider drug reaction
   to lisinopril per OSH report stopped med. [**2182-12-25**] Derm consult with BX
   suggested focal interface change consistent with drug eruption or
   drug-induced lupus erythematosis.  Drug-induced lupus more likely given
   subsequently positive [**Doctor First Name **].  Derm suggested amlodipine or lisinopril as
   possible culprits.  Family said that rash began as vesicles which
   collesced may be consistent with toxic epidermal necrosis. Also
   consider lichen planus per derm.
   - appreciate Derm consult
   - triamcinolone 0.1% per derm recs
    #  EtOH abuse, last drink [**1-5**]
   - ativan CIWA
   - thiamine, folic acid
    #  Hyperglycemia
   - Insulin SS
    # Glaucoma
   -Lumigan (Bimatoprost)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-1-9**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: